US05352684
D. 3-Acetyl-5-tert-butoxycarbonyl-2-(4-chlorobutyl)-1,4-dihydro-6-methyl-4-(3-nitrophenyl) -pyridine
24 g (79 mmol) 1-chloro-6-(3-nitrophenyl-methylene)-5,7-octanedione and 25 g (0.159 mol) tert-butyl β-amino-crotonate are boiled under reflux in 200 ml 1-butanol for 18 h. The mixture is filtered and concentrated, and the residue is chromatographed over silica gel with toluene/acetone=9/1. The title compound is obtained as a yellow oil. Yield: 19.7 g (57%).

reactant | 1-chloro-6-(3-nitrophenyl-methylene)-5,7-octanedione | 79 mmol, 24 g | ClCCCCC(C(C(C)=O)=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C15H16ClNO4
reactant | tert-butyl β-amino-crotonate | 0.159 mol, 25 g | N\C(=C/C(=O)OC(C)(C)C)\C | C8H15NO2
solvent | 1-butanol | 200 ml | C(CCC)O | C4H10O
product | 3-Acetyl-5-tert-butoxycarbonyl-2-(4-chlorobutyl)-1,4-dihydro-6-methyl-4-(3-nitrophenyl) -pyridine | C(C)(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC(C)(C)C)C)CCCCCl | C23H29ClN2O5
